US06794532B2
Preparation of EXN-1, R7 in Formula XIa=H, R9=H, R8=Quinoline
The synthesis is carried out in a similar manner to Example A5 using 3.58 g (28.2 mmol) of azabicyclo[2.2.2]octane N-oxide, 4.70 ml (31.1 mmol) of TMEDA, 20.00 ml (32.0 mmol) of n-butyllithium (1.6 M in n-hexane) and 5.00 g (31.7 mmol) of quinoline-4-carbaldehyde. The 1H NMR spectrum of the crude product shows that the two diastereomers are formed in a 1:1 ratio. Chromatographic purification on a silica gel column (ethyl acetate/triethylamine, 9:1) provides 2.95 g (39%) of rubanol as a colourless solid. Semipreparative HPLC (Chiracel OD-H®, n-heptane/isopropanol 98:2, 0.5 ml/min, tr[(−)-rubanol]=52.1 min, tr[(+)-rubanol]=63.8 min) separates the erythro-enantiomers from each other to 99% ee in each case. 1H NMR (CDCl3, 400 MHz): 8.90 (d, 1H, 3J=4.6 Hz), 8.12 (dd, 1H, 3J=8.6 Hz, 4J=0.8 Hz), 7.97 (d, 1H, 3J=8.4 Hz), 7.69-7.64 (m, 2H), 7.43 (dt, 1H, 3J=7.0 Hz, 4J=1.2 Hz), 5.78 (d, 1H, 3J=3.5 Hz), 4.70 (br, 1H), 3.57-3.52 (m, 1H), 3.14-2.49 (m, 4H), 1.89-1.27 (m, 7H). 13C NMR (CDCl3, 101 MHz): 150.6 (q), 148.7 (t), 148.4 (q), 130.8 (t), 129.4 (t), 126.9 (t), 126.1 (t), 125.5 (q), 123.4 (t), 118.7 (t), 72.0 (t), 60.4 (t), 51.1 (s), 44.3 (s), 26.7 (s), 26.3 (s), 25.9 (s), 22.3 (t). Melting point: 222-224° C. [α]D20: +99° (c=0.51, CHCl3).

reactant | azabicyclo[2.2.2]octane N-oxide | 28.2 mmol, 3.58 g | [N+]12(CCC(CC1)CC2)[O-] | C7H13NO
reactant | TMEDA | 31.1 mmol, 4.70 ml | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | 32.0 mmol, 1.6 M, 20.00 ml | C(CCC)[Li]
reactant | quinoline-4-carbaldehyde | 31.7 mmol, 5.00 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | n-heptane isopropanol | CCCCCCC.C(C)(C)O
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
